Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[H:4],1.72080236953
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:9][H:10],3.8237281566400014
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]=[C:11]([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.61098860913
[C:1]/[C:2](=[C:3](/[H:4])[O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][H:11].[C:3]([H:4])[O:5][H:6],3.42911248701
[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5]([O:6][H:7])=[C:8]([H:9])[H:10],2.11225928788
[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.88050196965
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11]>>[C:9]#[C:10][H:11].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],6.16994906794
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.83910837137
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],4.60227867067
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:11]([O:10])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1([H:12])[H:13],-0.023494900669900003
[C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][C:9]([H:10])([H:11])[H:12],-5.67283901695
[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.45955916912
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],3.43301578823
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][C:11]([H:12])([H:13])[H:14],3.83851298886
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.254278598821
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-1.5392964612600002
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],5.1513947755
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8].[H:9],5.23579403983
[H:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.29448446209
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]#[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[C:3]([H:4])([H:5])[H:6],3.44259372575
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],1.21864279944
[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:3],4.56245309556
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.53979562393
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3],0.30394918271
[C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-10.6147923695
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[O:1]=[C:2]([H:3])[H:4],0.7820724575489999
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10],4.55261904563
[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([H:5])/[C:6]=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],5.40716433804
[H:1][C:2]([O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-2.68687972676
